US06720320B2
2-(ethylsulfonyl)-4-hydroxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 2-(ethylsulfonyl)-4-methoxybenzo(b)furan (3.50 g) and boron tribromide (7.0 ml), the title compound (2.85 g) was obtained as colorless crystals, melting point 145-147° C.

reactant | 2-(ethylsulfonyl)-4-methoxybenzo(b)furan | 3.50 g | C(C)S(=O)(=O)C1=CC2=C(O1)C=CC=C2OC | C11H12O4S
reactant | boron tribromide | 7.0 ml | B(Br)(Br)Br | BBr3
product | 2-(ethylsulfonyl)-4-hydroxybenzo(b)furan | 2.85 g | C(C)S(=O)(=O)C1=CC2=C(O1)C=CC=C2O | C10H10O4S
